US08071766B2
To a solution of (S)-methyl 4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-(tert-butyldimethylsilyloxy)butanoate (91 g, 244 mg, 0.41 mmol) in DMA was added 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester (488 mg, 1.64 mmol), Pd(dppf)2Cl2 (66 mg, 0.08 mmol), and 2 N Na2CO3 (2 mL, 4.1 mmol). The resultant mixture was degassed with N2 for 5 min then heated in a sealed tube at 85° C. for 14 h. The reaction was allowed to cool to r.t. and filtered through a pad of Celite topped with anhydrous Na2SO4, rinsing with EtOAc and CH3OH. The filtrate was concentrated to provide a black residue which was purified by preparative HPLC eluting with TFA/ACN/H2O. The fractions were dried down in vacuo to yield (S)-methyl 4-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-(tert-butyldimethylsilyloxy)butanoate. This material was directly taken up in dioxane (700 μL) and treated with 1:9 TFA:H2O (1 mL) for 3 h. The solvents were removed in vacuo to yield (S)-methyl 4-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-hydroxybutanoate (91h, 15 mg, 0.03 mmol). [M+H] calc'd for C25H27FN6O5, 511. found, 511.

reactant | (S)-methyl 4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-(tert-butyldimethylsilyloxy)butanoate | 0.41 mmol, 91 g | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OCC[C@@H](C(=O)OC)O[Si](C)(C)C(C)(C)C)C2=C(C=C(C=C2)F)Br)C | C25H35BrFN5O4Si
reactant | 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester | 1.64 mmol, 488 mg | B1(OCCN(CCO1)C2=CC=CC=C2)C3=NC(=CC=C3)OC | C16H19BN2O3
reactant | Na2CO3 | 4.1 mmol, 2 N, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
catalyst | Pd(dppf)2Cl2 | 0.08 mmol, 66 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-methyl 4-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-(tert-butyldimethylsilyloxy)butanoate | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OCC[C@@H](C(=O)OC)O[Si](C)(C)C(C)(C)C)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C31H41FN6O5Si
